US08835419B2
To a stirred solution of (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-one (0.13 g, 0.32 mmol) and 3-(t-butoxycarbonylamino)pyrrolidine (0.24 g, 1.3 mmol) in dichloroethane (DCE) (2 mL) was added NaBH(OAc)3 (0.094 g, 0.44 mmol). The reaction mixture was heated at 80° C. for 4 h. The reaction mixture was quenched with aqueous saturated sodium bicarbonate and extracted with dichloromethane. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The resulting crude was purified by flash chromatography (SiO2, 1-7% methanol in dichloromethane) to give t-butyl 1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-ylcarbamate (0.092 g, 0.16 mmol, 31%).

reactant | (R)-1-(4-chloro-3-(1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-one | 0.32 mmol, 0.13 g | ClC1=C(C=C(C=C1)N1CCC(CC1)=O)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C19H19Cl3N2O
reactant | 3-(t-butoxycarbonylamino)pyrrolidine | 1.3 mmol, 0.24 g | C(C)(C)(C)OC(=O)NC1CNCC1 | C9H18N2O2
reactant | NaBH(OAc)3 | 0.44 mmol, 0.094 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | t-butyl 1-(1-(4-chloro-3-((R)-1-(2,4-dichlorophenyl)ethylamino)phenyl)piperidin-4-yl)pyrrolidin-3-ylcarbamate | 0.16 mmol, 0.092 g, 31% | ClC1=C(C=C(C=C1)N1CCC(CC1)N1CC(CC1)NC(OC(C)(C)C)=O)N[C@H](C)C1=C(C=C(C=C1)Cl)Cl | C28H37Cl3N4O2
